US07981903B2
To a solution of 5-(methyloxy)-2,3-dihydro-1H-indole (10.4 g, 54.4 mmol, 1.0 eq) in acetic anhydride (150 mL) was added dropwise fuming nitric acid (3.43 g, 54.4 mmol, 1.0 eq) at 0° C., then the mixture was stirred for 1 hour at r. t. After stirring for 1 hour the yellow precipitate which formed was filtered via Buchner funnel and washed with water and dried in vacuo to give 1-acetyl-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole as a yellow solid (8.0 g, 62% yield). 1H-NMR (CDCl3, 300 MHz) δ 8.43 (s, 1H), 7.31 (s, 1H), 4.13 (t, 2H), 3.87 (s, 3H), 3.22 (t, 2H), 2.14 (s, 3H).

reactant | 5-(methyloxy)-2,3-dihydro-1H-indole | 54.4 mmol, 10.4 g, 1.0 eq | COC=1C=C2CCNC2=CC1 | C9H11NO
reactant | nitric acid | 54.4 mmol, 3.43 g, 1.0 eq | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 150 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole | 8.0 g, 62% yield | C(C)(=O)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])OC | C11H12N2O4
